US08207174B2
4-(2-hydroxy-3-(1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propoxy)phenol
Synthesis followed SP6 (3 h), using 150 μmol tert-butyldimethyl(4-(oxiran-2-ylmethoxy)phenoxy)silane and 1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine to give O-silylated intermediate upon purification by prep. HPLC (reversed phase) with 17% yield. Product was obtained by deprotection according to SP7 and purification by prep. HPLC (reversed phase) with 14% yield.

reactant | tert-butyldimethyl(4-(oxiran-2-ylmethoxy)phenoxy)silane | 150 μmol | C(C)(C)(C)[Si](OC1=CC=C(C=C1)OCC1OC1)(C)C | C15H24O3Si
reactant | 1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | CC1=C(SC=2N=CN=C(C21)N2CCC(CC2)N)C2=CC=CC=C2 | C18H20N4S
product | 4-(2-hydroxy-3-(1-(5-methyl-6-phenylthieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)propoxy)phenol | 17% yield | OC(COC1=CC=C(C=C1)O)CNC1CCN(CC1)C=1C2=C(N=CN1)SC(=C2C)C2=CC=CC=C2 | C27H30N4O3S
